US09388172B2
In a 50 mL round-bottomed flask, 3,3,3-trifluoro-2-((2-(3-(trifluoromethyl)phenyl)morpholino)-methyl)propan-1-ol (760 mg, 2.13 mmol) was combined with CH2Cl2 (10.0 ml) to give a colorless solution and then cooled to 0° C. DIPEA (412 mg, 557 μl, 3.19 mmol) and methanesulfonyl chloride (244 mg, 166 μl, 2.13 mmol) were added dropwise and the resulting reaction mixture was stirred for 30 min. The reaction was diluted with CH2Cl2 (30 ml), washed with sat. NaHCO3 solution followed by washing with H2O, dried over MgSO4, filtered and concentrated to give 880 mg (95%) of methanesulfonic acid 3,3,3-trifluoro-2-[2-(3-trifluoromethyl-phenyl)-morpholin-4-ylmethyl]-propyl ester as a colorless oil. MH+=436.

reactant | 3,3,3-trifluoro-2-((2-(3-(trifluoromethyl)phenyl)morpholino)-methyl)propan-1-ol | 2.13 mmol, 760 mg | FC(C(CO)CN1CC(OCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C15H17F6NO2
reactant | DIPEA | 3.19 mmol, 557 μl, 412 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 2.13 mmol, 166 μl, 244 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10.0 ml | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3,3,3-trifluoro-2-[2-(3-trifluoromethyl-phenyl)-morpholin-4-ylmethyl]-propyl ester | 880 mg, 95% | FC(C(COS(=O)(=O)C)CN1CC(OCC1)C1=CC(=CC=C1)C(F)(F)F)(F)F | C16H19F6NO4S
